***************************************************************
* Test that segfault's and/or "improper simulation runs"
* no longer exist when the netlist:
*
*   1) defines a user-defined function (with .FUNC statement)
*      with N variables (e.g, mu and sigma for Func. A below).
*
*   2) subsequent function invocations in an expression use a
*      different (and incorrect) number of variables.
*
* Note: This bug would occur when the user defined function was
* used as part of a binary expression (e.g, in Bsrc B1).
*
****************************************************************

* User defined functions (udf) from the bug report for SON Bug 850.
* These functions were called UGAUSS in the bug report.
.FUNC udfA(mu,sigma) {exp(mu/sigma)}       ; User Defined Func. A
.func udfB(mu,sigma,t) {exp((t-mu)/sigma)} ; User Defined Func. B

VTEST    1    0     10
R1       1    2     50

* All of these B-source statements should produce a netlist parsing error.
* The inline comments give their behavior with Xyce 6.7.

* udfA should have two arguments, but is given three arguments
B1 2 0     I = {(V(2)+udfA(10m,1u,23))/50} ; segfault with Func. A
B2 2 0     I = {udfA(10m,1u,23)/50}   ; runs fine with Func. A, but shouldn't
B3 2 0     I = {udfA(10m,1u,23)+V(2)} ; segfaults with Func. A.
B4 2 0     I = {udfA(10m,1u,23)}      ; correctly aborts with Func. A 

* udfB should have three arguments, and is only given two arguments
B5 2 0     I = {(V(2)+udfB(10m,1u))/50}  ; segfault with Func. B
B6 2 0     I = {(udfB(10m,1u)+V(2))/50}  ; segfault with Func. B  
B7 2 0     I = {(udfB(20m,1u))/50}    ; runs fine with Func. B, but shouldn't

.TRAN 0 20m
.PRINT TRAN V(1) V(2)

.END

